*TB LELO_FDA_MILLER — OP and bias check (CMFB closed via internal sense)
.include ../../../work/xsch/LELO_FDA_MILLER.spice
.option TNOM=27 GMIN=1e-12 reltol=1e-3 srcsteps=20 itl1=500 itl6=300 abstol=1e-12

.param vcm = 'vdda/2'
.param ibias_val = 100u
.param CL_val    = 2.5p
.param vos       = 0.9

VSS    VSS    0      dc 0
VDD    VDD    0      dc {vdda}
VVCMREF VCMREF 0     dc {vcm}
VVINP  VINP   0      dc {vos}
VVINN  VINN   0      dc {vcm}
IIBIAS VSS    IBIAS  dc {ibias_val}
CLP    VOUTP  VSS    {CL_val}
CLN    VOUTN  VSS    {CL_val}
.include ../xdut.spi

.nodeset v(ibias)        = 0.85
.nodeset v(xdut.pbias)   = 0.64
.nodeset v(xdut.ntail)   = 0.25
.nodeset v(xdut.voutp1)  = 0.77
.nodeset v(xdut.voutn1)  = 0.77
.nodeset v(xdut.vctrl)   = 0.74
.nodeset v(xdut.vd)      = 0.59
.nodeset v(voutp)        = {vcm}
.nodeset v(voutn)        = {vcm}
.nodeset v(xdut.stailp)  = 0.20
.nodeset v(xdut.stailn)  = 0.20
.nodeset v(xdut.nccp)    = {vcm}
.nodeset v(xdut.nccn)    = {vcm}

.ic v(xdut.vctrl) = 0.74
.ic v(xdut.pbias) = 0.64
.ic v(xdut.ntail) = 0.25
.ic v(voutp)      = {vcm}
.ic v(voutn)      = {vcm}
.ic v(xdut.voutp1)= 0.77
.ic v(xdut.voutn1)= 0.77
.ic v(xdut.vd)    = 0.59

.save all

.control
set num_threads=8
unset askquit
set filetype=ascii
* Use a startup transient (UIC) to settle the CMFB loop, then take OP from
* the final state -- direct OP convergence keeps finding a non-physical root.
tran 10n 200u uic
op
echo ""
echo "===== Bias points ====="
print v(voutp) v(voutn) v(xdut.voutp1) v(xdut.voutn1) v(xdut.pbias) v(xdut.vctrl) v(xdut.vd) v(xdut.ntail) v(ibias)

let id_m1     = @m.xdut.xm1.msky130_fd_pr__nfet_01v8[id]
let id_m5p    = @m.xdut.xm5p.msky130_fd_pr__nfet_01v8_lvt[id]
let id_m6p    = -@m.xdut.xm6p.msky130_fd_pr__pfet_01v8[id]
let gm1       = @m.xdut.xm1.msky130_fd_pr__nfet_01v8[gm]
let gm5p      = @m.xdut.xm5p.msky130_fd_pr__nfet_01v8_lvt[gm]
let gds_o1    = @m.xdut.xm1.msky130_fd_pr__nfet_01v8[gds] + @m.xdut.xm3.msky130_fd_pr__pfet_01v8[gds]
let gds_o2    = @m.xdut.xm5p.msky130_fd_pr__nfet_01v8_lvt[gds] + @m.xdut.xm6p.msky130_fd_pr__pfet_01v8[gds]
let A1        = gm1/gds_o1
let A2        = gm5p/gds_o2
let A_tot_db  = 20*log10(A1*A2)

echo ""
echo "===== Currents (uA) ====="
print id_m1 id_m5p id_m6p
echo ""
echo "===== gm / gds / gain ====="
print gm1 gm5p gds_o1 gds_o2 A1 A2 A_tot_db

write {cicname}.raw
quit
.endc
.end
